US08431695B2
Preparation of 2-(4-{4-amino-5-[3-(benzyloxy)-5-fluorophenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide
In a manner similar to the procedure described for the preparation of Example 355 and using 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and 2-chloro-N,N-dimethylacetamide as starting material, 20 mg (17%) of the desired product was isolated. 1H NMR (400 MHz, CD2Cl2) δ 7.89 (s, 1H), 7.47-7.36 (m, 5H), 6.89 (s, 1H), 6.82 (d, 1H), 6.74 (d, 1H), 6.52 (s, 1H), 5.56 (s, 2H), 5.13 (s, 2H), 3.25-3.20 (m, 1H), 3.18 (s, 2H), 3.10 (s, 3H), 3.02-2.98 (m, 2H), 2.92 (s, 3H), 2.26 (t, 2H), 2.11-2.08 (m, 2H), 1.82-1.78 (m, 2H); LC-MS m/z [M+H]+ 503.9, RT 2.77 min.

reactant | 5-[3-(benzyloxy)-5-fluorophenyl]-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H24FN5O
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-amino-5-[3-(benzyloxy)-5-fluorophenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidin-1-yl)-N,N-dimethylacetamide | 20 mg, 17% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)CC(=O)N(C)C)C2=CC(=CC(=C2)F)OCC2=CC=CC=C2 | C28H31FN6O2
